US07288563B2
Part A: Preparation of allyl-hex-2-ynyl-carbamic acid tert-butyl ester
A solution of allyl-prop-2-ynyl-carbamic acid tert-butyl ester (prepared in the manner described by Boger et al., J. Am. Chem. Soc., 1996, 118, 2109; 1.95 g) in anhydrous tetrahydrofuran (10 mL) was stirred at 0° C. in a cooling bath and treated with n-butyllithium (1.6 M solution in hexane; 7.2 mL) during a 5 min period. After being stirred for an additional 5 min, the solution was treated sequentially with hexamethylphosphoramide (2 mL) and a solution of 1-iodopropane (1.71 mL) in tetrahydrofuran (2 mL). After 65 min, the cooling bath was removed and the mixture was allowed to warm to room temperature where it stirred for 80 min. At the conclusion of this period, saturated aqueous ammonium chloride was added, followed by water to dissolve the solids. The mixture was extracted with ethyl acetate, and the combined organic phases were washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated to yield a residue. The residue was purified by flash chromatography to provide a pale yellowish oil (1.67 g). MS (ES+) m/z 238.27 (M+H+).

reactant | allyl-prop-2-ynyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC#C)CC=C)=O | C11H17NO2
reactant | n-butyllithium | 1.6 M, 7.2 mL | C(CCC)[Li]
reactant | hexamethylphosphoramide | 2 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 1-iodopropane | 1.71 mL | ICCC | C3H7I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | allyl-hex-2-ynyl-carbamic acid tert-butyl ester | 1.67 g | C(C)(C)(C)OC(N(CC#CCCC)CC=C)=O | C14H23NO2
